US05834506
3-[2-(4-Benzyloxy-phenyl)-ethyl]-3-hydroxy-4-methyl-pentanoic acid
The title compound was prepared by dissolving 3-[2-(4-benzyloxy-phenyl)ethyl]-3-hydroxy-4-methyl-pentanoic acid tert-butyl ester (28 g, 70.3 mmol) from Example QQQQ in MeOH (150 mL). Lithium hydroxide (5.9 g, 140.6 mmol) in water (50 mL) was added and the reaction heated to reflux for 5 hours, cooled and pumped to dryness under vacuum. The product was partitioned between water and Et2O. The aqueous layer was decanted, acidified with 1N HCL, and the precipitate was filtered and dried under vacuum to give the title compound (mp 97°-98° C.).

reactant | 3-[2-(4-benzyloxy-phenyl)ethyl]-3-hydroxy-4-methyl-pentanoic acid tert-butyl ester | 70.3 mmol, 28 g | C(C)(C)(C)OC(CC(C(C)C)(O)CCC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C25H34O4
reactant | Lithium hydroxide | 140.6 mmol, 5.9 g | [OH-].[Li+]
solvent | MeOH | 150 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 3-[2-(4-Benzyloxy-phenyl)-ethyl]-3-hydroxy-4-methyl-pentanoic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC(CC(=O)O)(C(C)C)O | C21H26O4
